### PR TITLE
[Merged by Bors] - perf(CategoryTheory/Limits/Pullback/Categorical/Basic): abstract `CatCommSqOver`

### PR DESCRIPTION
**Pull request by robin-carlier**
When benchmarking #33822, it appeared that the file `CategoryTheory/Limits/Pullback/Categorical/Basic` was very slow.

`CatCommSqOver F G X` used to be an abbrev for `((whiskeringRight X A B).obj F) ⊡ ((whiskeringRight X C B).obj G)`. This
seemed to be one of the reasons for the bad performances in the file. The structure is now defined as a standalone structure, with some API. This does duplicate a small amount of code, but speeds up the file quite a bit.

In addition, the multiple calls to `cat_disch` (either explicit, or via autoparams) within the file accumulated some slowdowns. Most of the time, the proofs are `intros; ext <;> simp`, which is faster.

A small note is added to the module docstring for the file, precising that not using some autoparams is in fact intentional.

two `push ←` annotations are sneaked in.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 1]
```diff
@@ -202,13 +205,65 @@ variable (F G) in
...
+  fst : x.fst ⟶ y.fst
+  /-- the second component of `f : Hom x y` is a morphism `x.snd ⟶ y.snd` -/
+  snd : x.snd ⟶ y.snd
+  /-- the compatibility condition on `fst` and `snd` with respect to the structure
+  isomorphisms -/
+  w : whiskerRight fst F ≫ y.iso.hom = x.iso.hom ≫ whiskerRight snd G := by cat_disch
+
+attribute [reassoc (attr := simp)] Hom.w
+
+instance : Category (CatCommSqOver F G X) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean:236]: This generates four lemmas below:
```suggestion
@[simps! id_fst_app id_snd_app comp_fst_app comp_snd_app]
instance : Category (CatCommSqOver F G X) where
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 2]
```diff
@@ -202,13 +205,65 @@ variable (F G) in
...
+  comp f g :=
+    { fst := f.fst ≫ g.fst
+      snd := f.snd ≫ g.snd }
+
+@[ext]
+lemma hom_ext {S S' : CatCommSqOver F G X} {f g : S ⟶ S'}
+    (h₁ : f.fst = g.fst) (h₂ : f.snd = g.snd) : f = g := by
+  cases f
+  cases g
+  grind
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean]:
```suggestion
    (h₁ : f.fst = g.fst) (h₂ : f.snd = g.snd) : f = g :=
  Hom.ext h₁ h₂
```
